US04073795
Alpha-nitro-6-chloro-3-indoleacrylic acid methylester
A 4-l. battery jar was charged charged with 641 g (4.23 moles) of 6-chloroindole, 926 g (5.3 moles) of crude (ca. 85% pure) alpha-nitro-beta-ethoxy acrylic acid methylester and 475 g (4.65 moles) of acetic anhydride. The mixture was well stirred at room temperature for 45 hours to give a highly viscous suspension of an orange precipitate. 1.5 l of a mixture of benzene-ether-hexane 1:1:3 was added and the mixture stirred vigorously for 30 minutes. The product was collected by filtration, washed with 1:0 l of the same solvent mixture and dried at room temperature and 16 mmHg to constant weight to afford 600 g (51%) of product as orange crystals, m.p. 159°-160°.

reactant | 6-chloroindole | 4.23 moles, 641 g | ClC1=CC=C2C=CNC2=C1 | C8H6ClN
reactant | alpha-nitro-beta-ethoxy acrylic acid methylester | COC(C(=COCC)[N+](=O)[O-])=O | C6H9NO5
reactant | acetic anhydride | 4.65 moles, 475 g | C(C)(=O)OC(C)=O | C4H6O3
product | Alpha-nitro-6-chloro-3-indoleacrylic acid methylester | 600 g, 51% | COC(C(=CC1=CNC2=CC(=CC=C12)Cl)[N+](=O)[O-])=O | C12H9ClN2O4
